************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven_n en_n 0 PWL 0n VCC 100n VCC 101n 0 
Vminus minus 0 PWL 0n 0.6 1001n 0.6 1002n 0.601 2000n 0.601 2001n 0.6 3001n 
+0.6 3002n 0.599 4000n 0.599 4001n 0.6 5001n 0.6 5002n 1.1 5201n 1.1 5202n 0.4 
+5401n 0.4 5402n 0.7 5601n 0.7 5602n 0.55 5801n 0.55 5802n 0.75 6001n 0.75 6002n 
+0.6 6301n 0.6 6302n 0.3 7501n 0.3 7502n 1.2 
Vstart start 0 PWL 0n 0 1000n 0 1001n VCC 2000n VCC 2001n 0 3000n 
+0 3001n VCC 4000n VCC 4001n 0 5000n 0 5001n VCC 
Vvcc vcc 0 PWL 0n VCC 
Vplus plus 0 PWL 0n 0.6 6001n 0.6 6002n 0.7 6301n 0.7 6302n 0.4 6601n 
+0.4 6602n 0.3 6901n 0.3 6902n 0.25 7201n 0.25 7202n 0.325 7801n 0.325 7802n 1.6 
+8101n 1.6 8102n 0.6 8401n 0.6 8402n 1.23 

